US08445501B2
4-({1-[4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-piperidine-1-carboxylic acid ethyl ester
Starting from 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example A174) and ethyl chloroformate the title compound is obtained as colorless solid.

reactant | 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-({1-[4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1 | C27H31N5O6
